US07157487B2
Ethyl (5-chloro-2-fluoro-4-((1-isoquinolinylcarbonyl)amino)phenyl)acetate (690 mg, 1.78 mmol) was dissolved in THF (18 ml). To the resulting solution was added 0.25N NaOH (10.7 ml, 2.68 mmol), and the resulting mixture was stirred at room temperature for 7 hours. The reaction mixture was poured into 1N HCl (3.0 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water, and dried under reduced pressure to give (5-chloro-2-fluoro-4-((1-isoquinolinylcarbonyl)amino)phenyl)acetic acid (583 mg, 91%) as a pale yellow solid.

reactant | Ethyl (5-chloro-2-fluoro-4-((1-isoquinolinylcarbonyl)amino)phenyl)acetate | 1.78 mmol, 690 mg | ClC=1C(=CC(=C(C1)CC(=O)OCC)F)NC(=O)C1=NC=CC2=CC=CC=C12 | C20H16ClFN2O3
reactant | NaOH | 2.68 mmol, 0.25N, 10.7 ml | [OH-].[Na+]
reactant | HCl | 1N, 3.0 ml | Cl | ClH
solvent | THF | 18 ml | C1CCOC1 | C4H8O
product | (5-chloro-2-fluoro-4-((1-isoquinolinylcarbonyl)amino)phenyl)acetic acid | 583 mg, 91% | ClC=1C(=CC(=C(C1)CC(=O)O)F)NC(=O)C1=NC=CC2=CC=CC=C12 | C18H12ClFN2O3
